US04049705
A mixture of 2.0 parts of 2-n-dodecyl-3-hydroxyl-1,4-naphthoquinone, 0.81 parts of triethylamine, 0.63 parts of acetyl chloride and 50 parts of methylene chloride was stirred at room temperature for 30 hours. The resulting mixture was distributed between methylene chloride and water. The methylene chloride layer was separated, dried over magnesium sulfate, then filtered and evaporated under reduced pressure. The residue was crystallized from petroleum ether (b.p. 30°-60° C.) to give 1.2 parts of 3-acetoxy-2-n-dodecyl-1,4-naphthoquinone, m.p. 57°-58° C.

reactant | 2-n-dodecyl-3-hydroxyl-1,4-naphthoquinone | C(CCCCCCCCCCC)C=1C(C2=CC=CC=C2C(C1O)=O)=O | C22H30O3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-acetoxy-2-n-dodecyl-1,4-naphthoquinone | C(C)(=O)OC1=C(C(C2=CC=CC=C2C1=O)=O)CCCCCCCCCCCC | C24H32O4
